US08193199B2
To a stirred solution of (S)-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)ethyl)-quinoline-2-carbaldehyde (110 mg, 0.30 mmol) and potassium phosphate monobasic (41.0 mg, 0.30 mmol) in 2-methyl-2-butene (2 mL), tBuOH (2 mL), DCM (1.0 mL) and water (2.0 mL) was added sodium chlorite (27.3 mg, 0.30 mmol) in water (2.0 mL). The reaction was stirred at room temperature. for 2 hours and then it was treated with additional potassium phosphate monobasic (41.0 mg, 0.30 mmol) and sodium chlorite (27.3 mg, 0.30 mmol) in water (2.0 mL). The reaction was stirred for 2 hours and then it was diluted with 1.0 M citric acid (40 mL) and ethyl acetate (60 mL). The separated aqueous layer was extracted with ethyl acetate (2×60 mL) and the combined organic layers were washed with brine (40 mL), dried (MgSO4), filtered and evaporated in vacuo to give (S)-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)ethyl)quinoline-2-carboxylic acid. 1H NMR (400 MHz, CDCl3) δ ppm 8.62 (1H, s), 7.72-7.84 (6H, m), 7.65 (1H, dd, J=5.3, 2.9 Hz), 6.80 (1H, q, J=7.0 Hz), 1.96 (3H, d, J=7.0 Hz). Mass Spectrum (ESI) m/e=381.0 (M+1).

reactant | (S)-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)ethyl)-quinoline-2-carbaldehyde | 0.30 mmol, 110 mg | ClC=1C=CC=C2C=C(C(=NC12)C=O)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C20H13ClN2O3
reactant | potassium phosphate monobasic | 0.30 mmol, 41.0 mg | OP(=O)(O)[O-].[K+]
reactant | sodium chlorite | 0.30 mmol, 27.3 mg | Cl(=O)[O-].[Na+]
reactant | potassium phosphate monobasic | 0.30 mmol, 41.0 mg | OP(=O)(O)[O-].[K+]
reactant | sodium chlorite | 0.30 mmol, 27.3 mg | Cl(=O)[O-].[Na+]
solvent | 2-methyl-2-butene | 2 mL | CC(C)=CC | C5H10
solvent | tBuOH | 2 mL | CC(C)(C)O | C4H10O
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | citric acid | 1.0 M, 40 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (S)-8-chloro-3-(1-(1,3-dioxoisoindolin-2-yl)ethyl)quinoline-2-carboxylic acid | ClC=1C=CC=C2C=C(C(=NC12)C(=O)O)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C20H13ClN2O4
